US06218156B1
The recombinant E. coli HB101(pNTS1G) obtained in Example 10 was inoculated in 100 ml of a 2×YT medium sterilized in a 500 ml Sakaguchi flask, and cultured with agitation at 37° C. for 13 hours. Glucose, 0.5 g, 3.2 mg of NADP, and then 0.5 g of ethyl 4-iodoacetoacetate were added to 50 ml of the resultant culture. The culture was stirred at 30° C. while being adjusted at pH 6.5 with a 5 M sodium hydroxide solution to allow for reaction for 72 hours. After the reaction, the reaction solution was subjected to extraction using ethyl acetate, the solvent was removed under decompression, and the concentrate was purified by silica gel column chromatography, to obtain 900 mg of ethyl (S)-4-iodo-3-hydroxybutyrate. The optical purity of the ethyl (S)-4-iodo-3-hydroxybutyrate was analyzed as follows and found to be 91.6% e.e. That is, the sample was heated together with sodium cyanide in dimethyl sulfoxide to obtain ethyl 4-cyano-3-hydroxybutyrate, which was then changed to a benzoic ester using benzoyl chloride under the presence of pyridine. The optical purity of the benzoic ester was measured by an HPLC method. NMR(CDC13)δ(ppm): 1.28(3H,t), 2.65(2H,d), 3.31(3H,m), 4.00(1H,m), 4.20(2H,q); Column: Chiralpak AS (0.46×25 cm) manufactured by Daicel Chemical Industries, Co., Ltd.; Column temperature: 25° C.; Eluent: n-hexane/ethanol of 95/5; Flow rate: 1 ml/min.; Detection: 254 nm; Elution time: 19.6 minutes for (S), 21.3 minutes for (R).

reactant | ethyl (S)-4-iodo-3-hydroxybutyrate | IC[C@H](CC(=O)OCC)O | C6H11IO3
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 4-cyano-3-hydroxybutyrate | C(#N)CC(CC(=O)OCC)O | C7H11NO3
